US08859768B2
A mixture of 2-chloro-5-methyl-4-nitropyridine 1-oxide (1.1 g, 5.8 mmol), 1-(2,4-dimethoxyphenyl)methanamine (1.1 mL, 7.0 mmol), DIEA (2.0 mL, 11.6 mmol), and 1-butanol (9 mL) was subjected to microwave irradiation at 120° C. for 8 h. The reaction mixture was allowed to cool to rt and was filtered. The resulting solid was washed with water (20 mL) and dried to give N-(2,4-dimethoxybenzyl)-5-methyl-4-nitropyridin-2-amine 1-oxide (1.2 g, 67%), which was used in the next step without further purification.

reactant | 2-chloro-5-methyl-4-nitropyridine 1-oxide | 5.8 mmol, 1.1 g | ClC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C6H5ClN2O3
reactant | 1-(2,4-dimethoxyphenyl)methanamine | 7.0 mmol, 1.1 mL | COC1=C(C=CC(=C1)OC)CN | C9H13NO2
reactant | DIEA | 11.6 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1-butanol | 9 mL | C(CCC)O | C4H10O
product | N-(2,4-dimethoxybenzyl)-5-methyl-4-nitropyridin-2-amine 1-oxide | 1.2 g, 67% | COC1=C(CNC=2[N+](=CC(=C(C2)[N+](=O)[O-])C)[O-])C=CC(=C1)OC | C15H17N3O5
